* Auto TB for LC_Cell_v1
.include /mnt/e/MyResearch/Analog_blocks/models/sky130A/libs.tech/ngspice/sky130.lib.spice
.option gmin=1e-12
** sch_path: /home/chandru/MPW4_workdir/xschem_mpw4/LC_Cell

.subckt LC_Cell_v1 Ibias outn outp ind_sub VDD GND
** Higher current mirrorring ratio 1:4, increased by 2, increasing Cap W by 4X
*.ipin Ibias
*.opin outn
*.opin outp
XM1 outp outn net2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.8 nf=10
XM2 outn outp net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.8 nf=10
XM3 net2 Ibias GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.8 nf=10
XL1 outp outn VDD ind_sub sky130_fd_pr__ind_05_220
XC1 outp outn sky130_fd_pr__cap_mim_m3_1 W=4 L=4 MF=1
XM4 net1 Ibias GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.8 nf=10
XM5 Ibias Ibias GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=2.4 nf=5
.ends

.subckt LC_Cell_v2 Ibias outn outp ind_sub VDD GND
** Higher current mirrorring ratio 1:4, increased by 2, increasing Cap W by 4X
*.ipin Ibias
*.opin outn
*.opin outp
XM1 outp outn net2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.8 nf=5
XM2 outn outp net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.8 nf=5
XM3 net2 Ibias GND GND sky130_fd_pr__nfet_01v8 L=0.3 W=4.8 nf=10
XL1 outp outn VDD ind_sub sky130_fd_pr__ind_05_220
XC1 outp outn sky130_fd_pr__cap_mim_m3_1 W=4 L=4 MF=1
XM4 net1 Ibias GND GND sky130_fd_pr__nfet_01v8 L=0.3 W=4.8 nf=10
XM5 Ibias Ibias GND GND sky130_fd_pr__nfet_01v8 L=0.3 W=1.2 nf=2
.ends


Vdd VDD 0 DC 1.8
Vss GND 0 DC 0
X1 Ibias outn outp ind_sub VDD GND LC_Cell_v1
.op
.control
op
.endc
.end
